US04091211
18 Grams of N-ethyl-thiourea were dissolved in 50 m. of glacial acetic acid, boiled to reflux and treated dropwise with 17.2 g of diketene. The mixture was then boiled at reflux for 20 minutes and subsequently evaporated to 50 ml. While cooling and stirring, the residue was treated with 50 ml of water. The yellowish crystals which precipitated were filtered off under suction and recrystallized from tetrahydrofuran to give 1-ethyl-1,4-dihydro-2-mercapto-6-methyl-4-oxo-pyrimidine; melting point 190°.

reactant | N-ethyl-thiourea | C(C)NC(=S)N | C3H8N2S
reactant | diketene | 17.2 g | C=C1CC(=O)O1 | C4H4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-1,4-dihydro-2-mercapto-6-methyl-4-oxo-pyrimidine | C(C)N1C(=NC(C=C1C)=O)S | C7H10N2OS
